US03931235
3-Ethylthio-4-hydroxy-6-methyl-2-pyrone
A mixture of 37.2 g. (0.295 mole) of 4-hydroxy-6-methyl-2-pyrone and 28.4 g. (0.295 mole) of ethanesulfenyl chloride in 900 ml. of toluene was heated under reflux with stirring at 75°C. for two hours, during which time hydrogen chloride evolved. The reaction mixture was cooled to room temperature and filtered to remove 24.2 g. of a solid (m. 170°-172°C. - probably a mixture of starting pyrone and an unknown substance). The filtrate was concentrated to give 13.3 g. (25 percent) of the product as a white solid, m. 94°-95°C. Recrystallization from cyclohexane gave the pure product as white crystals, m. 101°-102°C.

reactant | 4-hydroxy-6-methyl-2-pyrone | 0.295 mole | OC1=CC(OC(=C1)C)=O | C6H6O3
reactant | ethanesulfenyl chloride | 0.295 mole | C(C)SCl | C2H5ClS
reactant | hydrogen chloride | Cl | ClH
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 3-Ethylthio-4-hydroxy-6-methyl-2-pyrone | C(C)SC=1C(OC(=CC1O)C)=O | C8H10O3S
